US08748412B2
2-Amino-3-(4-cyano-3-fluoro-phenyl)-propionic acid ethyl ester. In a 1.0 L flask, a mixture of ethyl 2-(diphenylmethyleneamino)acetate (267 g, 1.0 mol) and the catalyst Bu4NBr (32 g, 0.1 mol) in CH3CN (1000 mL) was treated sequentially with 4-(bromomethyl)-2-fluorobenzonitrile (232 g) and K2CO3 (276 g, 2 mol). The mixture was then stirred for 24 hrs at room temperature. The mixture was filtered and concentrated to give ethyl 3-(4-cyano-3-fluorophenyl)-2-(diphenylmethyleneamino)propanoate (400 g, 100% yield) as a yellow oil. The crude was treated with 2M HCl (600 mL) in THF (400 mL) overnight, and then extracted with EtOAc (3×200 mL). The water phase was basified with a saturated Na2CO3 to pH 10 and extracted with EtOAc (3×200 mL). The combined organic layer was washed with brine, dried over anhydrous Na2SO4, and concentrated under reduced pressure to yield the title compound (153 g, yield 65% for the last three steps). The crude was not further purified and used straightly in next step.

reactant | 2-Amino-3-(4-cyano-3-fluoro-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C=C1)C#N)F)N)=O | C12H13FN2O2
reactant | ethyl 2-(diphenylmethyleneamino)acetate | 1.0 mol, 267 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NCC(=O)OCC | C17H17NO2
reactant | 4-(bromomethyl)-2-fluorobenzonitrile | 232 g | BrCC1=CC(=C(C#N)C=C1)F | C8H5BrFN
reactant | K2CO3 | 2 mol, 276 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | Bu4NBr | 0.1 mol, 32 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[Br-]
solvent | CH3CN | 1000 mL | CC#N | C2H3N
product | ethyl 3-(4-cyano-3-fluorophenyl)-2-(diphenylmethyleneamino)propanoate | 400 g, 100% yield | C(#N)C1=C(C=C(C=C1)CC(C(=O)OCC)N=C(C1=CC=CC=C1)C1=CC=CC=C1)F | C25H21FN2O2
